US07795262B2
Step 4. Preparation of 7-benzyl-3-chloro-5,6,7,8-tetrahydropyrido[3,4-c]pyridazine
To a slurry of 7-benzyl-5,6,7,8-tetrahydropyrido[3,4-c]pyridazin-3-ol (7 g, 29.1 mmol) in toluene (50 ml) is added POCl3 (7 ml). The resulting mixture is heated at 85° C. for 3 hr. The mixture is cooled to 0° C. and is neutralized with saturated NaHCO3 solution. The mixture is extracted with EtOAc (100 ml×2). The combined organic phase is dried over sodium sulfate, and the solvent is removed under reduced pressure to give a residue that is purified by silica gel chromatography (EtOAc/4% TEA) to give the title compound.

reactant | 7-benzyl-5,6,7,8-tetrahydropyrido[3,4-c]pyridazin-3-ol | 29.1 mmol, 7 g | C(C1=CC=CC=C1)N1CC=2N=NC(=CC2CC1)O | C14H15N3O
reactant | POCl3 | 7 ml | O=P(Cl)(Cl)Cl | Cl3OP
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 7-benzyl-3-chloro-5,6,7,8-tetrahydropyrido[3,4-c]pyridazine | C(C1=CC=CC=C1)N1CC=2N=NC(=CC2CC1)Cl | C14H14ClN3
